US06555552B2
(1R*,2R*,5S*,6R*)-2-Amino-6-(tert-butoxycarbonyl)-1-phenyl-8-azabicyclo[3.2.1]octane
(1R*,2R*,5S*,6R*)-2-Benzylamino-8-benzyl-6-(tert-butoxycarbonyl)-1-phenyl-8-azabicyclo[3.2.1]octane (Description 18; 7.07 g, 14.7 mmol) and 10% palladium on activated charcoal (2 g) were taken up in methanol (100 mL) and acetic acid (100 mL), and the mixture was hydrogenated at 50 psi hydrogen for 16 hours at room temperature. The suspension was filtered and the filtrate concentrated in vacuo. The residue was then suspended in saturated aqueous sodium hydrogen carbonate solution (200 mL) and extracted with dichloromethane (2×400 mL). The extracts were dried (MgSO4) and concentrated to give the title compound as a brown oil (4.4 g, 14.6 mmol).

reactant | (1R*,2R*,5S*,6R*)-2-Benzylamino-8-benzyl-6-(tert-butoxycarbonyl)-1-phenyl-8-azabicyclo[3.2.1]octane | 14.7 mmol, 7.07 g | C(C1=CC=CC=C1)N[C@H]1[C@@]2(C[C@H]([C@H](CC1)N2CC2=CC=CC=C2)C(=O)OC(C)(C)C)C2=CC=CC=C2 | C32H38N2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated charcoal | 2 g | [Pd] | Pd
solvent | methanol | 100 mL | CO | CH4O
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | (1R*,2R*,5S*,6R*)-2-Amino-6-(tert-butoxycarbonyl)-1-phenyl-8-azabicyclo[3.2.1]octane | 14.6 mmol, 4.4 g | N[C@H]1[C@@]2(C[C@H]([C@H](CC1)N2)C(=O)OC(C)(C)C)C2=CC=CC=C2 | C18H26N2O2
